US07700633B2
D. (R)-2-(4-Methoxy-2-vinylbenzyl)-butan-1-ol
LiBH4 (1.66 g, 76.1 mmol) is added to a solution of (4S,5R)-3-[(R)-2-(4-methoxy-2-vinylbenzyl)-butyryl]-4-methyl-5-phenyloxazolidin-2-one (13.1 g, 33.3 mmol) in THF/MeOH (132 mL, 10:1, v/v) at 0° C. After 5 min at 0° C., the mixture is stirred at RT for 30 min. Water is carefully added, followed by addition of aq. NH4Cl solution. The mixture is partitioned between EtOAc and water layer. The organic extract is dried with MgSO4, concentrated and purified by chromatography to give the title compound as an oil: 1H NMR (CDCl3) δ 0.94 (t, J=7.6 Hz, 3H), 1.36-1.43 (m, 2H), 1.62-1.68 (m, 1H), 2.59-2.69 (m, 2H), 3.49-3.55 (m, 2H), 3.81 (s, 3H), 5.30 (dd, J=1, 11 Hz, 1H), 5.64 (dd, J=1, 17 Hz, 1H), 6.76 (dd, J=3, 8 Hz, 1H), 6.99 (dd, J=11, 17 Hz, 1H), 7.02 (d, J=3 Hz, 1H), 7.06 (d, J=8 Hz, 1H).

reactant | LiBH4 | 76.1 mmol, 1.66 g | [Li+].[BH4-]
reactant | (4S,5R)-3-[(R)-2-(4-methoxy-2-vinylbenzyl)-butyryl]-4-methyl-5-phenyloxazolidin-2-one | 33.3 mmol, 13.1 g | COC1=CC(=C(C[C@H](C(=O)N2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)CC)C=C1)C=C | C24H27NO4
reactant | Water | O | H2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF MeOH | C1CCOC1.CO
product | (R)-2-(4-Methoxy-2-vinylbenzyl)-butan-1-ol | COC1=CC(=C(C[C@H](CO)CC)C=C1)C=C | C14H20O2
